US07259266B2
Step 1. Preparation of 5-bromo-2-hydroxy-3-methoxybenzaldehyde
The solution of 2-hydroxy-3-methoxybenzaldehyde (10.0 g, 65.79 mmole) in acetic acid (50 mL) was cooled to 0° C. (ice bath). Bromine (12.55 g, 78.95 mmole) was added dropwise to above solution, which was allowed to stir for 2 hours. The reaction was warmed to room temperature and diluted with water (100 mL). A light brown precipitate was formed. The solid was filtered and washed with water (50 mL). The filtrate was dried on high vacuum to give a light brown solid (12.2 g, 80.0%): GCMS m/z 231.0 (M+). 1H NMR (CDCl3/400 MHz) 10.97 (s, 1H), 9.82 (s, 1H), 7.29 (s, 1H), 7.15 (s, 1H), 3.89 (m, 3H).

reactant | 2-hydroxy-3-methoxybenzaldehyde | 65.79 mmole, 10.0 g | OC1=C(C=O)C=CC=C1OC | C8H8O3
reactant | Bromine | 78.95 mmole, 12.55 g | BrBr | Br2
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | water | 100 mL | O | H2O
product | 5-bromo-2-hydroxy-3-methoxybenzaldehyde | 12.2 g, 80.0% | BrC=1C=C(C(=C(C=O)C1)O)OC | C8H7BrO3
